* vco_lc_pre testbench — transient oscillator characterization.
* [design-sheets-intake] MODIFIED: .include "vco_lc.sp" -> "../netlist/vco_lc.sp"
* (netlist moved from the flat folder into <design_dir>/netlist/ at intake; the PDK .lib line is untouched)
* Ported from example/training_example/VCO/first/netlist/oceanScript.ocn.
*
* What each Ocean measurement became, and why:
*   OscFreq      ymax(freq(v("/Vout+") "rising"))          -> `meas tran`
*                zero-crossing period on the differential output. Same idea,
*                measured over 40 settled periods instead of one edge pair.
*   Power        getData(":pwr" ?result "dcOp")            -> VDD * mean(i(vdd))
*                averaged over an integer number of periods. The DC op point
*                cannot be used here: the oscillator's DC solution is the
*                unstable symmetric one, and the real average current differs.
*   OutputPower  ymax(dbm(pvr('hb "/Vout+" "/Vout-" 50)))  -> the differential
*                fundamental amplitude A1 into 50 ohm, dBm = 10*log10(A1^2/(2*50)/1m).
*                ngspice has no harmonic balance, so A1 comes from the RMS of
*                the settled waveform over an integer number of periods
*                (A1 = sqrt(2)*Vrms). THD here is ~1.4%, so this agrees with a
*                Fourier fundamental to better than 0.03%.
*   TuningRange  ymax(harmonic(...)) - ymin(harmonic(...)) over the Vcont sweep
*                -> f(Vcont=VDD) - f(Vcont=0), the two sweep endpoints run as
*                separate transients.
*   PhaseNoise   value(leafValue(pn('hbnoise) ...))        -> NOT PORTED.
*                ngspice has neither harmonic balance nor pnoise, so oscillator
*                phase noise cannot be measured by this toolchain at all. It is
*                therefore absent from target_spec.json rather than present and
*                unmeasurable, which would block the measurability gate.
*
* Startup: the source netlist used converge('ic "/Vout+" "0" / "/Vout-" "1.2").
* ngspice's equivalent (.ic + uic) skips the operating point and starts every
* other node at 0, which this bias chain does not recover from. Instead the
* op point is solved normally and the tank is kicked by a single 1 mA / 50 ps
* differential current pulse — deterministic, and it does not recur.
.lib "/Users/cherrysun/pdk/manual/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.subckt vco_core Vcont Iref VDD VSS voutp voutn
.include "../netlist/vco_lc.sp"
X0 Vcont Iref VDD VSS voutp voutn vco_lc
.ends

.param vdd_val=1.8
.param iref_val=300u

xvco (Vcont Iref VDD VSS voutp voutn) vco_core ;

vdd   VDD 0 dc={vdd_val}
vss   VSS 0 dc=0
vctrl Vcont 0 dc={vdd_val/2}
iref  VDD Iref dc={iref_val}

* single-shot differential kick to start the oscillation
ikick voutp voutn pulse(0 1m 0 5p 5p 50p 1)

.control
set filetype=ascii

* The supply and the Vcont sweep endpoints are read back off the solved deck
* rather than restated here, so `.param vdd_val` stays the single place the
* rail is set. `alter` needs a shell variable, hence the $& round-trip.
op
let v_sup = v(VDD)
let v_mid = v(VDD) / 2
set s_vsup = $&v_sup
set s_vmid = $&v_mid

* ---- Vcont = 0 : low tuning endpoint --------------------------------------
alter vctrl dc = 0
tran 2p 60n
let vdiff = v(voutp) - v(voutn)
meas tran tlo1 WHEN vdiff=0 RISE=1  TD=30n
meas tran tlo2 WHEN vdiff=0 RISE=41 TD=30n
let f_lo = 40 / (tlo2 - tlo1)
set s_flo = $&f_lo

* ---- Vcont = VDD : high tuning endpoint -----------------------------------
alter vctrl dc = $s_vsup
tran 2p 60n
let vdiff = v(voutp) - v(voutn)
meas tran thi1 WHEN vdiff=0 RISE=1  TD=30n
meas tran thi2 WHEN vdiff=0 RISE=41 TD=30n
let f_hi = 40 / (thi2 - thi1)
set s_fhi = $&f_hi

* ---- Vcont = VDD/2 : the nominal operating point ---------------------------
alter vctrl dc = $s_vmid
tran 2p 60n
let vdiff = v(voutp) - v(voutn)
meas tran t1 WHEN vdiff=0 RISE=1  TD=30n
meas tran t2 WHEN vdiff=0 RISE=41 TD=30n
* every average below runs over exactly 40 periods, so tank ripple cancels
meas tran vrms  RMS vdiff  FROM=$&t1 TO=$&t2
meas tran iavg  AVG i(vdd) FROM=$&t1 TO=$&t2

let OscFreq     = 40 / (t2 - t1)
let a1          = sqrt(2) * vrms
let OutputPower = 10 * log10( a1*a1 / (2 * 50) / 1e-3 )
let Power       = abs(iavg) * $s_vsup
let TuningRange = $s_fhi - $s_flo

* settled differential waveform, for a post-layout comparison and for any
* transient extractor added to .claude/reference/compute_fidelity.py
write ./simout_vco_lc_pre.out vdiff v(voutp) v(voutn)

echo "Simulated performance ..." > ./vco_lc_pre_results.txt
echo "OscFreq: $&OscFreq"         >> ./vco_lc_pre_results.txt
echo "OutputPower: $&OutputPower" >> ./vco_lc_pre_results.txt
echo "TuningRange: $&TuningRange" >> ./vco_lc_pre_results.txt
echo "Power: $&Power"             >> ./vco_lc_pre_results.txt
echo "f_lo: $s_flo"               >> ./vco_lc_pre_results.txt
echo "f_hi: $s_fhi"               >> ./vco_lc_pre_results.txt
echo "Vamp_fund: $&a1"            >> ./vco_lc_pre_results.txt

quit
.endc

.end
